US08633237B2
b) 5-bromo-2,3-dihydro-1H-inden-1-amine
Zinc dust (28.0 g, 428 mmol) was added to a suspension of (E)-5-bromo-2,3-dihydro-1H-inden-1-one oxime (19.4 g, 86 mmol) in acetic acid (30 mL). The suspension was stirred at rt for 48 h. The reaction was filtered over Kiezelguhr gel. The residue was rinsed with ethyl acetate (2×100 mL). The combined filtrates were concentrated under reduced pressure to obtain a yellow oil. The yellow oil was partitioned between ethyl acetate (200 mL) and 2 N aq. HCl (200 mL). The acidic layer was separated before being basified using aq. 4 N NaOH and a white suspension was formed. Ethyl acetate (200 mL) was added and the milky mixture was filtered over Kiezelguhr gel. The organic phase was separated, dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford the title compound as a clear light yellow oil (10.8 g, 59%). MS (ESI): m/z [M−NH2]+ 198.0

reactant | (E)-5-bromo-2,3-dihydro-1H-inden-1-one oxime | 86 mmol, 19.4 g | BrC=1C=C2CC\C(\C2=CC1)=N/O | C9H8BrNO
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 428 mmol, 28.0 g | [Zn] | Zn
product | 5-bromo-2,3-dihydro-1H-inden-1-amine | 10.8 g, 59% | BrC=1C=C2CCC(C2=CC1)N | C9H10BrN
